US05130316
To 4'-ethylbiphenylcarboxylic acid (20 mmol) dissolved in 50 mL dry DMF was added 25 mmol of triethylamine and the mixture was cooled in an ice bath, added 38.5 mmol of methyl chloroformate dropwise at 0°-5° C., and then stirred at room temperature for 15 minutes. The mixture was cooled to 0° C. again, and a cold solution of 38.5 mmol of sodium azide dissolved in a minimum amount of water (<8 mL) was added as rapidly as possible (in one portion if possible) at <5° C. The reaction mixture was stirred at 0° C. for 1 hour and poured into 500 mL of ice-water. The resulting precipitate was filtered while still cold (<10 min), washed with cold water and dried under a stream of nitrogen to give the crude 4'-ethylbiphenylcarbonyl azide. The azide was used in place of 4'-ethylbiphenylisocyanate for the subsequent reactions according to the procedures exactly paralleling those described previously for Examples 1 through 3 to give the desired product as a colorless solid, mp 223°-224° C.

reactant | 4'-ethylbiphenylcarboxylic acid | 20 mmol | C(C)C1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O | C15H14O2
reactant | triethylamine | 25 mmol | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 38.5 mmol | ClC(=O)OC | C2H3ClO2
reactant | sodium azide | 38.5 mmol | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | <8 mL | O | H2O
product | 4'-ethylbiphenylcarbonyl azide | C(C)C1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)N=[N+]=[N-] | C15H13N3O
